US06579864B1
A solution of (7α)-3,3-dimethoxy-7-methylestr-5(10)-en-17-one (1.5 g, 4.5 mmol) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU, 1.2 mL, 9.9 mmol) in 30 mL dist. THF was added in approx. 8 minutes to a stirred solution of lithium bis(trimethylsilyl)amide (LiHMDS, 4.96 mL, 1M in THF) in 15 mL distillated THF at −40° C. under a nitrogen atmosphere. The reaction mixture was stirred for 45 minutes at −40° C. A solution of iodomethane (730 μL, 11.7 mmol) in 1 mL dist. THF was added and stirred for 1 hour and the temperature was allowed to warm up to 0° C. Water and sat. ammonium chloride solution were added and extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4) and evaporated to dryness. Column Chromatography using heptane/ethyl acetate 95/5 (v/v %) as eluent gave (7α,16α)-3,3-dimethoxy-7,16-dimethylestr-5(10)-en-17-one (990 mg, yield 65%).

reactant | (7α)-3,3-dimethoxy-7-methylestr-5(10)-en-17-one | 4.5 mmol, 1.5 g | COC1(CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2CC1)=O)C)OC | C21H32O3
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 9.9 mmol, 1.2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | lithium bis(trimethylsilyl)amide | 1M, 4.96 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 11.7 mmol, 730 μL | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | (7α,16α)-3,3-dimethoxy-7,16-dimethylestr-5(10)-en-17-one | 990 mg, yield 65% | COC1(CC=2C[C@H]([C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2CC1)=O)C)C)OC | C22H34O3
